US09353075B2
Step 2. Preparation of (4-methyltetrahydropyran-4-yl)-N-aminocarbamate
In a round bottomed flask equipped with a magnetic stirrer, crude (4-methyltetrahydropyran-4-yl)-(4-nitrophenyl)-carbonate from previous step (ca. 3.8 g) was dissolved in THF (50 mL), then hydrazine hydrate (1.97 mL, 40.57 mmol) was added in one portion. A yellow color immediately appeared which deepened to red in 1 h. After 3 h, 1.25M NaOH solution (50 mL) and AcOEt (50 mL) were added and the mixture stirred for 20 min. The phases were separated and the aqueous one washed with more AcOEt (25 mL). The combined organic liquors were washed with 1.25M NaOH solution (30 mL) (until clear colorless), dried over Na2SO4 and concentrated to leave a colorless oil (0.540 g, 24% over two steps) which was used in the next step without further purification. 1H NMR (CDCl3) δ 1.58 (s, 3H), 1.73 (m, 2H), 2.15 (m, 2H), 3.73 (m, 6H), 6.0 (bs, 1H).

reactant | hydrazine hydrate | 40.57 mmol, 1.97 mL | O.NN
reactant | NaOH | 1.25M, 50 mL | [OH-].[Na+]
reactant | AcOEt | 50 mL | CCOC(=O)C | C4H8O2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | (4-methyltetrahydropyran-4-yl)-N-aminocarbamate | CC1(CCOCC1)OC(NN)=O | C7H14N2O3
